US08071592B2
(b) 7-Fluoro-2(1H)-quinolinone
A solution of 70% H2SO4 was made up by adding chilled H2SO4 (35 ml) to chilled water (15 ml) ensuring the temp remained between 10-20° C. Finely ground N-(3-fluorophenyl)-3,3-bis(methyloxy)propanamide (6.17 g, 27.2 mmol) was then added cautiously to this solution keeping the vessel in ice. This was stirred for 1 hour and then ice water (70 ml) was added. This was then diluted further with water (230 ml). The mixture was stirred for a further 30 mins. The precipitate was filtered off and dried in a vacuum oven overnight to give the desired product (3.67 g, 83%). This material contained approximately 10% of the isomeric 5-fluoro-2(1H)-quinolinone.

reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 35 ml | OS(=O)(=O)O | H2O4S
reactant | N-(3-fluorophenyl)-3,3-bis(methyloxy)propanamide | 27.2 mmol, 6.17 g | FC=1C=C(C=CC1)NC(CC(OC)OC)=O | C11H14FNO3
solvent | water | 230 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 7-Fluoro-2(1H)-quinolinone | 3.67 g, 83% | FC1=CC=C2C=CC(NC2=C1)=O | C9H6FNO
